US04541959
To a solution of 2.84 g of 3-(4-phenylthiobenzoyl)acrylic acid in 30 ml of chloroform was added 0.8 ml of thioacetic acid, and the resulting mixture was stirred for 5 hours at room temperature. The chloroform was removed from the mixture by evaporation under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate) and then recrystallized from a mixture of hexane and ethyl acetate to give 3.24 g of 2-acetylthio-3-(4-phenylthiobenzoyl)propionic acid.

reactant | 3-(4-phenylthiobenzoyl)acrylic acid | 2.84 g | C1(=CC=CC=C1)C1=CC=C(C(=S)C=CC(=O)O)C=C1 | C16H12O2S
reactant | thioacetic acid | 0.8 ml | C(C)(=S)O | C2H4OS
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-acetylthio-3-(4-phenylthiobenzoyl)propionic acid | 3.24 g | C(C)(=O)SC(C(=O)O)CC(C1=CC=C(C=C1)C1=CC=CC=C1)=S | C18H16O3S2
